US09085555B2
D. (1R,3S,5S)-5-Hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoromethoxy-phenyl)-amide hydrochloride
To a solution of (1R,3S,5S)-3-(2-fluoro-3-trifluoromethoxy-phenylcarbamoyl)-5-(tetrahydro-pyran-2-yloxymethyl)-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester (105 mg, 0.19 mmol) in dioxane (0.5 mL) was added HCl (4 N in dioxane, 481 μL, 1.92 mmol). The mixture was stirred at RT for 4 h, solvent was removed under reduced pressure and the material thus obtained was used without further purification in the next step. MS (UPLC/MS): 335.2 [M+H]+, 333.2 [M−H]−, 379.6 [M+HCOO]−.

reactant | (1R,3S,5S)-3-(2-fluoro-3-trifluoromethoxy-phenylcarbamoyl)-5-(tetrahydro-pyran-2-yloxymethyl)-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | 0.19 mmol, 105 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@]2(C[C@H]1C(NC1=C(C(=CC=C1)OC(F)(F)F)F)=O)COC1OCCCC1 | C24H30F4N2O6
reactant | HCl | 1.92 mmol, 4 N, 481 μL | Cl | ClH
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (1R,3S,5S)-5-Hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoromethoxy-phenyl)-amide hydrochloride | Cl.FC1=C(C=CC=C1OC(F)(F)F)NC(=O)[C@H]1N[C@@H]2C[C@@]2(C1)CO | InChI=1S/C14H14F4N2O3.ClH/c15-11-7(2-1-3-9(11)23-14(16,17)18)20-12(22)8-4-13(6-21)5-10(13)19-8;/h1-3,8,10,19,21H,4-6H2,(H,20,22);1H/t8-,10+,13-;/m0./s1
